US07247625B2
6-[(2,5-dichlorophenyl)amino]-4,4-diethyl-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one
Prepared from 6-amino-4,4-diethyl-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one and 1,4-dichloro-2-iodobenzene according to the coupling procedure described in example 2. 1H NMR (DMSO-d6): δ 7.85 (s, 1H), 7.41 (d, J=8.5 Hz, 1H), 7.20 (dd, J=8.7, 2.4 Hz, 1H), 7.09 (m, 2H), 6.89 (d, J=2.4 Hz, 1H), 6.83 (dd, J=8.5, 2.4 Hz, 1H), 3.29 (s, 3H), 1.97 (m, 4H), 0.82 (t, J=7.3 Hz, 6H); MS (ESI) m/z [M+H]+ (379/381/383); Anal. calcd for C19H20Cl2N2O2: C, 60.17; H, 5.32; N, 7.39. Found: C, 59.11; H, 5.36; N, 6.84.

reactant | 6-amino-4,4-diethyl-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | NC=1C=CC2=C(C(OC(N2C)=O)(CC)CC)C1 | C13H18N2O2
reactant | 1,4-dichloro-2-iodobenzene | ClC1=C(C=C(C=C1)Cl)I | C6H3Cl2I
product | 6-[(2,5-dichlorophenyl)amino]-4,4-diethyl-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | ClC1=C(C=C(C=C1)Cl)NC=1C=CC2=C(C(OC(N2C)=O)(CC)CC)C1 | C19H20Cl2N2O2
